US06858651B2
In analogy to example 11.9, trans-[4-(4-Bromo-butoxy)-cyclohexyl]-methyl-amine hydrochloride and 3,4-difluoro-benzenesulfonyl chloride (with 2.1 eq N,N-diisopropylethylamine) were reacted to yield trans-N-[4-(4-Bromo-butoxy)-cyclohexyl]-3,4-difluoro-N-methyl-benzenesulfonamide which was used directly in the next steps see Example 12.55-12.56 and 12.65 and 12.66.

reactant | trans-[4-(4-Bromo-butoxy)-cyclohexyl]-methyl-amine hydrochloride | Cl.BrCCCCO[C@@H]1CC[C@H](CC1)NC
reactant | 3,4-difluoro-benzenesulfonyl chloride | 2.1 eq | FC=1C=C(C=CC1F)S(=O)(=O)Cl | C6H3ClF2O2S
product | trans-N-[4-(4-Bromo-butoxy)-cyclohexyl]-3,4-difluoro-N-methyl-benzenesulfonamide | BrCCCCO[C@@H]1CC[C@H](CC1)N(S(=O)(=O)C1=CC(=C(C=C1)F)F)C | C17H24BrF2NO3S
